US07750017B2
[3-Chloro-4-(3-fluoro-benzyloxy)-phenyl]-(7-morpholin-4-yl-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-amine
To a stirring suspension of (7-bromo-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-amine (50 mg, 0.097 mmol) in morpholine (500 mg, 5.74 mmol) was added sodium hydride (60%, 15.5 mg, 0.388 mmol). The resulting mixture was bubbled with N2 for 2 min, followed by addition of 2-dicyclohexyphino-2′-(N,N-dimethylamino)biphenyl (1.91 mg, 4.86 μmol), and tris(dibenzylideneacetone)dipalladium (4.45 mg, 4.86 μmol). The mixture was further bubbled with N2 for 2 min, and stirred at 135-140° C. for 20 min. It was cooled to rt, and concentrated in vacuo. The residue was purified by preparative TLC (CH2Cl2/CH3OH=8/1) to give the target product (29.0 mg, 57%). 1H-NMR (DMSO-d6) δ 8.83 (s, 1H), 8.43 (s, 1H), 8.37 (d, 1H), 7.73 (d, 1H), 7.61 (d, 1H), 7.51 (q, 1H), 7.43-7.48 (m, 1H), 7.28-7.32 (m, 2H), 7.21-7.25 (m, 2H), 7.16 (m, 1H), 5.25 (s, 1H), 3.78 (t, 4H), 3.26 (t, 4H). LCMS RT=3.90 min; [M+H]+=521.1.

reactant | (7-bromo-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-amine | 0.097 mmol, 50 mg | BrC1=CC2=C(C3=C(N=CN=C3NC3=CC(=C(C=C3)OCC3=CC(=CC=C3)F)Cl)S2)C=C1 | C23H14BrClFN3OS
reactant | morpholine | 5.74 mmol, 500 mg | N1CCOCC1 | C4H9NO
reactant | sodium hydride | 0.388 mmol, 15.5 mg | [H-].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 4.86 μmol, 4.45 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [3-Chloro-4-(3-fluoro-benzyloxy)-phenyl]-(7-morpholin-4-yl-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-amine | 29.0 mg, 57% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)N1CCOCC1 | C27H22ClFN4O2S
